US07323464B2
2-Phenylpyridine
2-Chloropyridine (10 g, 88.0 mmol), phenylboronic acid (12.9 g, 105.7 mmol), tetrakis(triphenylphosphine)palladium (0) (5.0 g, 5 mol %) and 2M Na2CO3 (50 mL) were all dissolved in ethylene glycol dimethylether (200 mL) at room temperature, under an atmosphere of nitrogen. The mixture was refluxed for 48 hours. Ethylene glycol dimethylether was evaporated in vacuo to give a red oil, which was partitioned between water (10 mL) and EtOAc (10 mL). The EtOAc layer was separated and the aqueous layer was further extracted with EtOAc (10 mL×2). The combined EtOAc layers were dried (MgSO4) and concentrated in vacuo to a red oil. Purification by flash column chromatography (iso-hexaneethyl acetate 1:5-silica) gave the title product as a colourless oil (9.6 g, 70%).

reactant | 2-Chloropyridine | 88.0 mmol, 10 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | phenylboronic acid | 105.7 mmol, 12.9 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethylether | 200 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Phenylpyridine | 9.6 g, 70% | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
